US04061753
Preparation of 7-(1-pyridyl)methyl theophylline chloride
A suspension of 3.60 g (0.02 mole) of theophylline, 2.30 g (0.02 mole) of pyridine hydrochloride and 0.7 g (0.023 mole) of paraformaldehyde was heated at 80° for 24 hr. Upon cooling, crystals immediately formed in the solution. The crystals were filtered and dried in vacuo to give 4.83 g (28% yield) of the desired compound as its hydrate.

reactant | theophylline | 0.02 mole, 3.60 g | N1(C)C(=O)N(C)C=2N=CNC2C1=O | C7H8N4O2
reactant | pyridine hydrochloride | 0.02 mole, 2.30 g | Cl.N1=CC=CC=C1
reactant | paraformaldehyde | 0.023 mole, 0.7 g | C=O | CH2O
product | 7-(1-pyridyl)methyl theophylline chloride | 4.83 g, 28% yield | [Cl-].N1(CC=CC=C1)CN1C=NC=2N(C(N(C)C(C12)=O)=O)C | InChI=1S/C13H15N5O2.ClH/c1-15-11-10(12(19)16(2)13(15)20)18(8-14-11)9-17-6-4-3-5-7-17;/h3-6,8H,7,9H2,1-2H3;1H/p-1
